US07968552B2
In an atmosphere of nitrogen, sodium borohydride was added to a methanol solution of 4-{[2′,6′-dimethyl-4′-(2-oxopropoxy)biphenyl-3-yl]methoxy}benzaldehyde under ice-cooling, followed by stirring at room temperature for 2 hours to obtain 1-[(-3′-{[4-(hydroxymethyl)phenoxy]methyl}-2,6-dimethylbiphenyl-4-yl)oxy]propan-2-ol. By adding chloroform and manganese dioxide to the resulting compound and stirring at 60° C. for 5 hours, 4-{[4′-(2-hydroxypropoxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}benzaldehyde was obtained.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 4-{[2′,6′-dimethyl-4′-(2-oxopropoxy)biphenyl-3-yl]methoxy}benzaldehyde | CC1=C(C(=CC(=C1)OCC(C)=O)C)C1=CC(=CC=C1)COC1=CC=C(C=O)C=C1 | C25H24O4
solvent | methanol | CO | CH4O
product | 1-[(-3′-{[4-(hydroxymethyl)phenoxy]methyl}-2,6-dimethylbiphenyl-4-yl)oxy]propan-2-ol | OCC1=CC=C(OCC=2C=C(C=CC2)C2=C(C=C(C=C2C)OCC(C)O)C)C=C1 | C25H28O4
